US08404722B2
Preparation of 4-(2-phenyloxazol-4-yl)benzenamine (35b):
zinc dust (0.59 ml, 64 mmol) was added to a mixture of 4-(4-nitrophenyl)-2-phenyloxazole (1.13 g, 4.2 mmol) in acetic acid (20 ml, 349 mmol) at room temperature. An exotherm resulted. The reaction mixture was stirred at room temperature for 60 minutes then filtered, rinsing with ethyl acetate, and the filtrate concentrated under reduced pressure. The concentrate was slurried in toluene and concentrated under reduced pressure to afford a yellow solid (1.0 g, quantitative). ESI+ m/z=237.1 [MH]+.

reactant | 4-(4-nitrophenyl)-2-phenyloxazole | 4.2 mmol, 1.13 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(OC1)C1=CC=CC=C1 | C15H10N2O3
reactant | acetic acid | 349 mmol, 20 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 64 mmol, 0.59 ml | [Zn] | Zn
product | 4-(2-phenyloxazol-4-yl)benzenamine | C1(=CC=CC=C1)C=1OC=C(N1)C1=CC=C(C=C1)N | C15H12N2O
